US07700623B2
To an acetic acid (15 mL) suspension of 1.00 g of 4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamide=oxime was added 0.48 mL of acetic anhydride at room temperature, which was then stirred at the same temperature for one hour. The solvent was distilled off under reduced pressure, and the resultant residue was subsequently added to a mixture of water and chloroform, which was then adjusted to pH 7.5 using a saturated sodium bicarbonate aqueous solution. The precipitate was collected by filtration and washed with water and chloroform to provide 1.07 g of 4-{3-[4-(3-{4-[amino(acetyloxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamide=O-acetyloxime as white solid form.

reactant | 4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamide | 1.00 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=O)N)C=C2)C=C1)=NO | C25H34N4O4
reactant | acetic anhydride | 0.48 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-{3-[4-(3-{4-[amino(acetyloxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamide | 1.07 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=O)N)C=C2)C=C1)=NOC(C)=O | C27H36N4O5
